US05290776
To a solution of 2-(2-furyl)-5-iodo-7-methylthio-[1,2,4]triazolo[1,5-a][1,3,5]triazine (2.5 g) and phenyl acetylene (1.5 ml) in dimethylformamide (40 ml) was added triethylamine (1.1 ml), bis(triphenylphosphine)-palladium (II) chloride (0.2 g) and cuprous iodide (0.1 g) and the mixture stirred at room- temperature for 3 hours. The reaction mixture was diluted with water (350 ml) and extracted with ethyl acetate (3×50 ml). The organic extract was washed with water, dried magnesium sulphate and evaporated. The crude product was purified by chromatography on silica-gel (150 g), eluting with ethyl acetate dichloromethane (1% v/v). The residue from the fractions containing the product were triturated with ether and filtered to give 2-(2-furyl)-7-methylthio-5-phenylethynyl-[1,2,4]-triazolo[1,5-a][1,3,5]triazine (1.0 g). Crystallisation of an aliquot from isopropanol gave a yellow crystalline product m.p. 188°-190° C.; microanalysis, found: C, 60.8; H, 3.1; N, 20.9%, C17H11N5OS requires C, 61.2; H, 3.3; N,21.0%; NMR 2.8 (S, 3H, CH3S); 6.75 (d of d, 1H, furyl-4H); 7.35 (d, 1H, furyl-3H), 7.55 (complex, 3H, phenyl-3H, phenyl-4H and phenyl-5H), 7.74 (complex, 2H, phenyl-2H and phenyl-6H) and 8.0 (d, 1H, furyl-5H); m/e 353M+.

reactant | 2-(2-furyl)-5-iodo-7-methylthio-[1,2,4]triazolo[1,5-a][1,3,5]triazine | 2.5 g | O1C(=CC=C1)C1=NN2C(N=C(N=C2SC)I)=N1 | C9H6IN5OS
reactant | phenyl acetylene | 1.5 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 350 ml | O | H2O
catalyst | bis(triphenylphosphine)-palladium (II) chloride | 0.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(2-furyl)-7-methylthio-5-phenylethynyl-[1,2,4]-triazolo[1,5-a][1,3,5]triazine | 1.0 g | O1C(=CC=C1)C1=NN2C(N=C(N=C2SC)C#CC2=CC=CC=C2)=N1 | C17H11N5OS
